US07842685B2
Reaction of 1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)ethanone (1.76 g, 4.53 mmol) and methyl azetidine-3-carboxylate hydrochloride (1.03 g, 6.80 mmol) according to reference R and the general procedure for reductive amination gave racemic methyl 1-(1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)ethyl)azetidine-3-carboxylate. Separation of enantiomers was accomplished by SFC chromatography (Column: Chiralcel OJ-H (21×250 mm, 5 um)×2; A: Liquid CO2; B: Ethanol (0.2% IPA); Isocratic: 80:20 (A:B); Flow Rate: 70 mL/min; Outlet Pressure: 100 bar) to give (R)-methyl 1-(1-(3-fluoro-4-(5-(1-phenylcyclopropyl)-thiazolo[5,4-b]pyridine-2-yl)phenyl)ethyl)azetidine-3-carboxylate and (S)-methyl 1-(1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)ethyl)azetidine-3-carboxylate. MS (ESI) m/z: Calculated: 487.2; Observed: 488.1 (M++1).

reactant | 1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)ethanone | 4.53 mmol, 1.76 g | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C(C)=O | C23H17FN2OS
reactant | methyl azetidine-3-carboxylate hydrochloride | 6.80 mmol, 1.03 g | Cl.N1CC(C1)C(=O)OC
product | racemic methyl 1-(1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)ethyl)azetidine-3-carboxylate | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C(C)N1CC(C1)C(=O)OC | C28H26FN3O2S
